US09428505B2
To a mixture of 1-((4-bromo-3,5-dimethylphenyl)amino)cyclopropane carboxylic acid (198 mg, 0.697 mmol) in acetic acid (3 mL) and dichloromethane (1.5 mL), potassium cyanate (424 mg, 5.23 mmol) was added at room temperature. The mixture was stirred at room temperature for one hour, and then stirred at 60° C. for two hours. A saturated aqueous sodium hydrogen carbonate solution was added to adjust pH to 8, and this mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-hexane) to afford 4-(4-bromo-3,5-dimethylphenyl)-4,6-diazaspiro[2.4]heptane-5,7-dione (49 mg, 23%).

reactant | 1-((4-bromo-3,5-dimethylphenyl)amino)cyclopropane carboxylic acid | 0.697 mmol, 198 mg | BrC1=C(C=C(C=C1C)NC1(CC1)C(=O)O)C | C12H14BrNO2
reactant | potassium cyanate | 5.23 mmol, 424 mg | [O-]C#N.[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 4-(4-bromo-3,5-dimethylphenyl)-4,6-diazaspiro[2.4]heptane-5,7-dione | 49 mg, 23% | BrC1=C(C=C(C=C1C)N1C2(CC2)C(NC1=O)=O)C | C13H13BrN2O2
